US20010004454A1
i) Preparation of triflylazide
To an ice-cold solution of sodium azide (166.0 g, 2.6 mol) in water (500 mL) dichloromethane (300 mL) was added, followed by trifluoromethanesulfonic anhydride (144.0 g, 0.51 mol) dropwise while maintaining the solution at 0-5° C. The reaction mixture was stirred at room temperature for 2 h. The organic layer was separated, washed first with water (2×100 mL) and then with saturated sodium carbonate (2×100 mL). The organic layer was dried (anhydrous sodium sulfate) and the solvent removed under reduced pressure at room temperature to obtain the product as a colorless oil (89.0 g; Yield: 100%).

reactant | sodium azide | 2.6 mol, 166.0 g | [N-]=[N+]=[N-].[Na+]
reactant | trifluoromethanesulfonic anhydride | 0.51 mol, 144.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | 500 mL | O | H2O
product | triflylazide | 89.0 g, Yield: 100% | S(=O)(=O)(C(F)(F)F)N=[N+]=[N-] | CF3N3O2S
